US08877801B2
To a large microwave vial (10-20 mL) was added 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene (350 mg, 1.00 mmol), ethyl 4-aminocinnamate (383 mg, 2.00 mmol) and K3PO4 (425 mg, 2.00 mmol). 1,4-dioxane (6.0 mL) was then added followed by chloro-(2-dicyclohexylphosphino-2′,6′-diisopropoxy-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]palladium(II) methyl-t-butyl ether adduct (RuPhos palladacycle, 73.0 mg, 0.10 mmol) and the reaction was subjected to microwave irradiation at 120° C. for 3 h. Upon completion the reaction mixture was transferred to round bottom flask with EtOAc and concentrated in vacuo. The resulting material was partitioned between water and EtOAc and separated, the aqueous layer was then further extracted with EtOAc (3×) and the combined organic layers were passed through a phase separator to remove water and concentrated in vacuo. The crude material was purified by column chromatography (SiO2, 0-30% EtOAc/heptane) to afford (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)amino)phenyl)acrylate (69.0 mg, 0.15 mmol, 15% yield) as a white solid. LC/MS (m/z, MH+): 460.3.

reactant | 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene | 1.00 mmol, 350 mg | BrC=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C16H13BrO2S
reactant | ethyl 4-aminocinnamate | 2.00 mmol, 383 mg | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)amino)phenyl)acrylate | 0.15 mmol, 69.0 mg, 15% yield | COC=1C=CC2=C(SC(=C2NC2=CC=C(C=C2)/C=C/C(=O)OCC)C2=CC=C(C=C2)OC)C1 | C27H25NO4S
